US08008483B2
c) Preparation of 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid
To a solution of ethyl 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylate (983 mg, 3.28 mmol, 1.00 equiv) in tetrahydrofuran (21 ml) at 0° C., a premixed solution of lithium hydroxide monohydrate (275 mg, 6.56 mmol, 2.00 equiv) and water (7 ml) was added dropwise. Methanol (7 ml) was added. The reaction was allowed to warm to room temperature over 1 h and stirring was continued for 3 h. The solvent was removed under reduced pressure, yielding a colorless oil. Ethyl acetate was added to the oil, and the desired product precipitated as a white solid. The solid was filtered and dried under reduced pressure to provide 885 mg (99%) of the title compound. MS (ES+): m/e 272.0 [M+H]+.

reactant | ethyl 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylate | 3.28 mmol, 983 mg, 1.00 equiv | ClC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)OCC | C12H18ClN5O2
reactant | lithium hydroxide monohydrate | 6.56 mmol, 275 mg, 2.00 equiv | O.[OH-].[Li+]
reactant | water | 7 ml | O | H2O
reactant | Methanol | 7 ml | CO | CH4O
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 885 mg, 99% | ClC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)O | C10H14ClN5O2
